US08791132B2
2,8-Dimethyl-5-((2-(pyridin-3-yl)oxiran-2-yl)methyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (100 mg, 0.3 mmol) was dissolved in MeOH (2 mL) and aq. ammonia (2 mL) and the reaction mixture was allowed to stir at RT for 24 h. The progress of reaction was monitored by LCMS. The volatiles were removed under reduced pressure to obtain a crude oily product that was purified by reverse phase HPLC to afford 7 mg of 1-amino-3-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-3-yl)propan-2-ol as TFA salt. 1H NMR (CD3OD, TFA salt) δ (ppm): 8.65 (m, 2H), 8.43 (dd, 1H), 7.75 (m, 1H), 7.18 (d, 1H), 6.88 (m, 2H), 4.67 (d, 1H), 4.55 (m, 2H), 4.29 (t, 1H), 3.90 (m, 2H), 3.69 (m, 1H), 3.5 (m, 2H), 3.1 (m, 1H), 3.11 (s, 3H), 2.34 (s, 3H). Separation by chiral HPLC provides enantiomers II-264a-b.

reactant | 2,8-Dimethyl-5-((2-(pyridin-3-yl)oxiran-2-yl)methyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.3 mmol, 100 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC2(OC2)C=2C=NC=CC2)CC1 | C21H23N3O
reactant | ammonia | 2 mL | N | H3N
solvent | MeOH | 2 mL | CO | CH4O
product | 1-amino-3-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-3-yl)propan-2-ol | 7 mg | NCC(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)(O)C=2C=NC=CC2 | C21H26N4O
